US07553836B2
Step A. Preparation of (R)-4-(4-chlorophenyl)-N-(4-(3-hydroxypyrrolidin-1-yl)-3-methoxyphenyl)-1H-pyrrole-2-carboxamide
(R)-1-(4-amino-2-methoxyphenyl)pyrrolidin-3-ol, preparation described in Patent WO 2005/042541, was converted to the title compound (48 mg) by acylation with 4-(4-chlorophenyl)-1H-pyrrole-2-carboxylic acid (30 mg) following the procedure described in step C of Example 1. MS (ESI) 412 (M+H)+.

reactant | (R)-1-(4-amino-2-methoxyphenyl)pyrrolidin-3-ol | NC1=CC(=C(C=C1)N1C[C@@H](CC1)O)OC | C11H16N2O2
reactant | 4-(4-chlorophenyl)-1H-pyrrole-2-carboxylic acid | 30 mg | ClC1=CC=C(C=C1)C=1C=C(NC1)C(=O)O | C11H8ClNO2
product | (R)-4-(4-chlorophenyl)-N-(4-(3-hydroxypyrrolidin-1-yl)-3-methoxyphenyl)-1H-pyrrole-2-carboxamide | 48 mg | ClC1=CC=C(C=C1)C=1C=C(NC1)C(=O)NC1=CC(=C(C=C1)N1C[C@@H](CC1)O)OC | C22H22ClN3O3
